US08912209B2
Intermediate 31: 3-(2-Hydroxy-ethylsulfanyl)-dihydro-furan-2-one
To a solution of 2-mercapto-ethanol (2560 μmol) in THF (4 ml) were added DIEA (1.1 eq) and 3-bromo-dihydro-furan-2-one (1 eq). The reaction mixture was stirred at RT for 4 hours. The precipitate was filtered and the solvent was removed under reduced pressure.

reactant | 2-mercapto-ethanol | 2560 μmol | SCCO | C2H6OS
reactant | DIEA | 1.1 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-bromo-dihydro-furan-2-one | 1 eq | BrC1C(OCC1)=O | C4H5BrO2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 3-(2-Hydroxy-ethylsulfanyl)-dihydro-furan-2-one | OCCSC1C(OCC1)=O | C6H10O3S
